US07728176B2
A 50-ml four-necked flask was equipped with a stirrer, a thermometer, a dropping funnel and a reflux condenser. 1.090 g (8 mmol) of zinc chloride and 4 ml of N-methylpyrrolidinone were weighed in the flask. The flask was purged with argon, followed by stirring. 3.5 ml (7 mmol) of 2M tetrahydrofuran solution of n-heptylmagnesium chloride was added dropwise at 25° C. over a period of 30 minutes, followed by stirring at 25° C. for 30 minutes. The reaction liquid previously obtained was added, followed by stirring at 25° C. for 30 minutes. Further, 0.558 g (5 mmol) of chlorobenzene was added, followed by stirring at 120° C. for 16 hours. After the completion of the reaction, 10 ml of toluene and 10 ml of saturated aqueous ammonium chloride solution were added, followed by separation. The organic phase was purified by column chromatography to afford 0.684 g of 1-phenylheptane (yield: 78 mol % based on chlorobenzene). The identification of the product was made by mass spectroscopy.

reactant | tetrahydrofuran | 7 mmol, 2M, 3.5 ml | O1CCCC1 | C4H8O
reactant | n-heptylmagnesium chloride | C(CCCCCC)[Mg]Cl
reactant | chlorobenzene | 5 mmol, 0.558 g | ClC1=CC=CC=C1 | C6H5Cl
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
catalyst | zinc chloride | 8 mmol, 1.090 g | [Cl-].[Zn+2].[Cl-]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | N-methylpyrrolidinone | 4 ml | CN1C(CCC1)=O | C5H9NO
product | 1-phenylheptane | 0.684 g | C1(=CC=CC=C1)CCCCCCC | C13H20
